US04958026
At 100° C., 167.0 g of 4-hydroxy-3-nitrobenzaldehyde, 311.0 g of potassium carbonate, and 211.0 g of benzyl chloride are agitated in 2 l of dimethylformamide for 16 hours. The resultant reaction mixture is poured into 10 l of water, the thus-separated solid product is filtered off and recrystallized from ethanol, yielding 215.0 g of 4-benzyloxy-3-nitrobenzaldehyde, mp 100°-102° C.

reactant | 4-hydroxy-3-nitrobenzaldehyde | 167.0 g | OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H5NO4
reactant | potassium carbonate | 311.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 211.0 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | 10 l | O | H2O
solvent | dimethylformamide | 2 l | CN(C=O)C | C3H7NO
product | 4-benzyloxy-3-nitrobenzaldehyde | 215.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C14H11NO4
